US05371101
A mixture of 13.0 g of 4-(3-methylbutyl)semicarbazide-hydrochloride (71.6 mmol) and 60 ml of ethyl orthoformate was stirred at 110° C. for two hours. After cooling, the mixture was subjected to column chromatography using silica-gel (eluate; ethyl acetate:hexane=1:2 to 2:1 to ethyl acetate to ethyl acetate:methanol=10:1). The desired fraction was concentrated. The crystals thus given was recrystallized from ethyl acetate-petroleum ether to give 7.0 g of 4-(3-methylbutyl)-3(2H,4H)-1,2,4-triazolone (63%) as colorless needles.

reactant | 4-(3-methylbutyl)semicarbazide-hydrochloride | 71.6 mmol, 13.0 g | Cl.CC(CCNC(NN)=O)C
reactant | ethyl orthoformate | 60 ml | C(OCC)([O-])[O-]
product | 4-(3-methylbutyl)-3(2H,4H)-1,2,4-triazolone | 7.0 g, 63% | CC(CCN1C(NN=C1)=O)C | C7H13N3O
